US06974802B2
c) Benzyl 3-(N-FMOC-L-valyloxy)-2-stearoyloxypropionate
To a stirred solution of benzyl 3-(N-FMOC-L-valyloxy)-2-hydroxypropionate (4.6 g 8.89 mmole) and pyridine (1.41 g, 17.8 mmole) in 80 ml dichloromethane was added dropwise a solution of stearoylchloride (3.64 g, 12 mmole) in 20 ml dichloromethane and the mixture was stirred overnight at room temperature. 100 ml of 5% sodium hydrogencarbonate solution was added and the mixture stirred for 30 minutes. The organic phase was seperated and the water phase was extracted two times with dichloromethane. The combined organic phases were dried with sodium sulfate and concentrated in vacuo. The product was isolated by silica gel chromatography. Yield: 6.1 g=87%

reactant | benzyl 3-(N-FMOC-L-valyloxy)-2-hydroxypropionate | 8.89 mmole, 4.6 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](C(C)C)C(=O)OCC(C(=O)OCC1=CC=CC=C1)O | C30H31NO7
reactant | pyridine | 17.8 mmole, 1.41 g | N1=CC=CC=C1 | C5H5N
reactant | stearoylchloride | 12 mmole, 3.64 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | sodium hydrogencarbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Benzyl 3-(N-FMOC-L-valyloxy)-2-stearoyloxypropionate | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](C(C)C)C(=O)OCC(C(=O)OCC1=CC=CC=C1)OC(CCCCCCCCCCCCCCCCC)=O | C48H65NO8
